US04861778
Preparation of 2-(3'-Oxobutyl)-2,3-Dihydrophthalazine-1,4-Dione (Compound No. 20).
2,3-Dihydrophthalazine-1,4-dione (16.2 g; 0.1 mol) was suspended in 95 percent ethanol (200 ml). The suspension was heated to reflux and methyl vinyl ketone (8.4 g; 0.12 mol) was added to the refluxing suspension. With the ketone in the reaction mixture, the mixture was refluxed for 41 hours. The solid remaining after refluxing was filtered. The filtrate was concentrated to obtain the product which was crystallized from ethanol. The yield was determined to be 80 percent. The product had a melting point of 152°-153° C.

reactant | 2,3-Dihydrophthalazine-1,4-dione | 0.1 mol, 16.2 g | C1(NNC(C2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | methyl vinyl ketone | 0.12 mol, 8.4 g | C(=C)C(=O)C | C4H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(3'-Oxobutyl)-2,3-Dihydrophthalazine-1,4-Dione | O=C(CCN1C(C2=CC=CC=C2C(N1)=O)=O)C | C12H12N2O3
